US06498174B1
Intermediate 1B: 2-[5-ethyl-2-phenyl-1,3oxazol-4-yl]acetic acid ethyl ester
The title compound was prepared (as described above for the preparation of example 1) from ethyl 4-bromo-3-oxo-hexanoate (3.32 g, 14 mmol) and 6.79 g (56 mmol) of benzamide to give 710 mg of Intermediate 1B: TLC Rf=0.69 (2/1 hexanes/EtOAc); 1H NMR (CDCl3, 300 MHz) δ7.98 (m, 2H), 7.41 (m, 3H), 4.18 (q, 2H, J=6.9), 3.57 (s, 2H), 2.72 (q, 2H, J=7.5), 1.29-1.24 low resolution MS (ES+)m/e 260.1 (MH+).

reactant | ethyl 4-bromo-3-oxo-hexanoate | 14 mmol, 3.32 g | BrC(C(CC(=O)OCC)=O)CC | C8H13BrO3
reactant | benzamide | 56 mmol, 6.79 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | 2-[5-ethyl-2-phenyl-1,3oxazol-4-yl]acetic acid ethyl ester | 710 mg | C(C)OC(CC=1N=C(OC1CC)C1=CC=CC=C1)=O | C15H17NO3
